US04258176
466.8 g (2 mols) of 3,3-dimethyl-12-isopropyl-1-aza-1,5,9-cyclododecatriene is dissolved in 4 liters of cyclohexane, and the solution is hydrogenated at 20°-25° C. under an initial pressure of 100 bars, in the presence of 80 g of rhodium/aluminium oxide, for 4 hours in a steel autoclave. The solvent is then distilled off to obtain, as main fraction, 425 g (1.79 mols) of 3,3-dimethyl-12-isopropyl-1-aza-cyclododecene; b.p. 92°-94° C./4 Pa; nD20 =1.4706.

reactant | 3,3-dimethyl-12-isopropyl-1-aza-1,5,9-cyclododecatriene | 2 mols, 466.8 g | CC1(C=NC(CC=CCCC=CC1)C(C)C)C | C16H27N
solvent | cyclohexane | 4 liters | C1CCCCC1 | C6H12
catalyst | rhodium aluminium oxide | 80 g | [Rh].[O-2].[Al+3].[O-2].[O-2].[Al+3]
product | 3,3-dimethyl-12-isopropyl-1-aza-cyclododecene | 1.79 mols, 425 g | CC1(C=NC(CCCCCCCC1)C(C)C)C | C16H31N
